US05519040
n-BuLi (9.96 mmol, 6.2 mL, 1.6M) was added dropwise to a -78° C. solution of diisopropylamine (1.4 mL, 9.96 mmol) in dry THF (20 mL). The solution was stirred for 10 min. at 0° C., then tributyltinhydride (9.96 mmol, 2.68 mL) was added and the solution stirred for 15 min. The solution was cannulated into a 0° C. solution of paraformaldehyde (9.96 mmol, 0.3 g) and the solution stirred at rt for 3 hours. The reaction was quenched with NH4Cl and extracted with pentane (4x), dried (MgSO4), and concentrated. The crude material was dissolved in CH2Cl2 (40 mL), dimethylaniline (14.9 mmol, 1.9 mL) was added and the solution cooled to 0° C. Chloromethylmethylether (14.9 mmol, 1.13 mL) was added and the reaction stirred for 2 hours. The reaction was diluted with pentane and then washed with cold 0.5M HCl, water, saturated NaHCO3 and dried (Na2SO4). Flash chromatography (25% CH2Cl2 /hexane) affords 1.49 g (41%) of (methoxymethoxymethyl)tributyl tin.

reactant | n-BuLi | 9.96 mmol, 1.6M, 6.2 mL | [Li]CCCC
reactant | diisopropylamine | 9.96 mmol, 1.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | tributyltinhydride | 9.96 mmol, 2.68 mL | C(CCC)[SnH](CCCC)CCCC
reactant | paraformaldehyde | 9.96 mmol, 0.3 g | C=O | CH2O
reactant | dimethylaniline | 14.9 mmol, 1.9 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | Chloromethylmethylether | 14.9 mmol, 1.13 mL | ClCOC | C2H5ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (methoxymethoxymethyl)tributyl tin | 1.49 g, 41% | COCOC[Sn](CCCC)(CCCC)CCCC | InChI=1S/3C4H9.C3H7O2.Sn/c3*1-3-4-2;1-4-3-5-2;/h3*1,3-4H2,2H3;1,3H2,2H3;
